US08975254B2
(S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-4,5,6,7-tetrahydrobenzo[d]isoxazole-3-carboxamide
The title compound was prepared using the method of Example 34(d) starting from (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile (90 mg, 0.345 mmol) and 4,5,6,7-tetrahydrobenzo[d]isoxazole-3-carboxylic acid (75 mg, 0.449 mmol). The product was purified with flash chromatography. Yield 111 mg (78%). 1H-NMR (400 MHz; CDCl3): δ 1.24 (d, 3H), 1.69-1.83 (m, 4H), 2.77-2.83 (m, 4H), 4.25-4.43 (m, 2H), 4.52-4.61 (m, 1H), 6.63 (d, 1H), 7.37 (d, 1H), 7.49 (d, 1H), 7.70 (d, 1H), 7.86 (d, 1H), 7.94 (d, 1H).

reactant | (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chlorobenzonitrile | 0.345 mmol, 90 mg | N[C@H](CN1N=C(C=C1)C1=CC(=C(C#N)C=C1)Cl)C | C13H13ClN4
reactant | 4,5,6,7-tetrahydrobenzo[d]isoxazole-3-carboxylic acid | 0.449 mmol, 75 mg | O1N=C(C2=C1CCCC2)C(=O)O | C8H9NO3
product | (S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-4,5,6,7-tetrahydrobenzo[d]isoxazole-3-carboxamide | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C1=NOC2=C1CCCC2 | C21H20ClN5O2
